US07507740B2
(ii) Production of 3-[2-chloro-4-(6,7-dihydro-9H-pyrimido[4′,5′:4,5]pyrrolo[2,1-c][1,4]oxazin-4-ylamino)phenoxy]benzonitrile hydrochloride
A mixture of 4-phenoxy-6,7-dihydro-9H-pyrimido[4′,5′:4,5]pyrrolo[2,1-c][1,4]oxazine (69 mg), 3-(4-amino-2-chlorophenoxy)benzonitrile (95 mg), pyridine hydrochloride (75 mg) and 1-methyl-2-pyrrolidone (1 mL) was stirred at 140° C. for 14 hrs. After the completion of the reaction, the mixture was diluted with ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate and saturated brine. The organic layer was dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (hexane/ethyl acetate=50/50→0/100). The obtained fractions were collected and concentrated, and the residue was dissolved in ethyl acetate (2 mL) and treated with 4N hydrochloric acid/ethyl acetate (0.13 mL) to give the title compound (81 mg) as hydrochloride crystals.

reactant | 4-phenoxy-6,7-dihydro-9H-pyrimido[4′,5′:4,5]pyrrolo[2,1-c][1,4]oxazine | 69 mg | O(C1=CC=CC=C1)C1=NC=NC=2C=C3COCCN3C21 | C15H13N3O2
reactant | 3-(4-amino-2-chlorophenoxy)benzonitrile | 95 mg | NC1=CC(=C(OC=2C=C(C#N)C=CC2)C=C1)Cl | C13H9ClN2O
reactant | pyridine hydrochloride | 75 mg | Cl.N1=CC=CC=C1
reactant | 1-methyl-2-pyrrolidone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-chloro-4-(6,7-dihydro-9H-pyrimido[4′,5′:4,5]pyrrolo[2,1-c][1,4]oxazin-4-ylamino)phenoxy]benzonitrile hydrochloride | 81 mg | Cl.ClC1=C(OC=2C=C(C#N)C=CC2)C=CC(=C1)NC1=NC=NC=2C=C3COCCN3C21 | InChI=1S/C22H16ClN5O2.ClH/c23-18-9-15(4-5-20(18)30-17-3-1-2-14(8-17)11-24)27-22-21-19(25-13-26-22)10-16-12-29-7-6-28(16)21;/h1-5,8-10,13H,6-7,12H2,(H,25,26,27);1H
